US04988686
3-diphenylmethoxy-1-(2-dimethylaminoethyl)-6-hydroxymethyl-4-pyridone
To a suspension of 1.542 g of 6-hydroxymethyl-3-(p-methoxybenzyl)oxy-4-pyridone in 10 ml of methanol is added 4.408 g of N,N-dimethylethylenediamine, and the mixture is stirred for 14 hours. The reaction mixture is condensed under reduced pressure, and subjected to flash column chromatography on 50 g of Wako-Gel C-300 (manufactured by Wako Pure Chemical Industries, Ltd.) with an eluent of chloroform-methanol (10:1) to perform separation and purification. The title compound is obtained as colorless crystal in a yield of 1.174 g.

reactant | 6-hydroxymethyl-3-(p-methoxybenzyl)oxy-4-pyridone | 1.542 g | OCC1=CC(C(C=N1)OCC1=CC=C(C=C1)OC)=O | C14H15NO4
reactant | N,N-dimethylethylenediamine | 4.408 g | CN(CCN)C | C4H12N2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | 10 ml | CO | CH4O
product | 3-diphenylmethoxy-1-(2-dimethylaminoethyl)-6-hydroxymethyl-4-pyridone | C1(=CC=CC=C1)C(OC1=CN(C(=CC1=O)CO)CCN(C)C)C1=CC=CC=C1 | C23H26N2O3
